US06642389B2
In analogy to the procedures described in examples 114 b], c] and d], 3,5-dimethyl-4-hydroxy-benzaldehyde was reacted with methanesulfonic acid 2-(5-methyl-2-phenyl-oxazol-4-yl)-ethyl ester [PCT Int. Appl. (2000) WO0008002] to give 3,5-dimethyl-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-benzaldehyde. Treatment of 3,5-dimethyl-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-benzaldehyde with (benzyloxycarbonyl-methoxy-methyl)-triphenyl-phosphonium chloride then gave 3-{3,5-dimethyl-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-phenyl}-2(Z,E)-methoxy-acrylic acid benzyl ester, which was hydrogenated to yield [rac]-3-{3,5-dimethyl-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-phenyl}-2-methoxy-propionic acid as light yellow oil.

reactant | 3,5-dimethyl-4-hydroxy-benzaldehyde | CC=1C=C(C=O)C=C(C1O)C | C9H10O2
reactant | methanesulfonic acid 2-(5-methyl-2-phenyl-oxazol-4-yl)-ethyl ester | CC1=C(N=C(O1)C1=CC=CC=C1)CCOS(=O)(=O)C | C13H15NO4S
product | 3,5-dimethyl-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-benzaldehyde | CC=1C=C(C=O)C=C(C1OCCC=1N=C(OC1C)C1=CC=CC=C1)C | C21H21NO3
